Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PROSTATE CANCER
 
Major Surgical or Invasive Procedure:
Robotic radical prostatectomy with right non nerve sparing, left 
full nerve sparing.

Laparoscopic bilateral pelvic lymph node dissection.

 
History of Present Illness:
___ year old with prostate cancer, sarcoid and hemophilia. 

 
Past Medical History:
PAST MEDICAL HISTORY:  Surgeries:  Tonsillectomy as a child.  
The
patient also had a lung biopsy as well as dental extractions.  
He
was not covered with fresh frozen plasma at time of his oral
surgery and had significant hemorrhage, but his other procedures
were done with coverage and had no bleeding issues.  He has no
regular rectal bleeding or gross hematuria.  He has no joint
issues from his hemophilia.  Medical:  The patient has a history
of hypothyroidism, hypercholesterolemia, prior history of 
sarcoid
(diagnosed with lung biopsy) and occasional headaches/migraines.
 
Social History:
___
Family History:
FAMILY HISTORY:  Negative for prostate cancer; however, father
and grandfather had BPH issues.  Mother had breast cancer and
father had type 2 diabetes.
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
JP drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 06:00AM BLOOD WBC-6.1 RBC-3.69* Hgb-11.2* Hct-35.0* 
MCV-95 MCH-30.4 MCHC-32.0 RDW-12.2 RDWSD-42.6 Plt ___
___ 06:25AM BLOOD WBC-6.8 RBC-3.20* Hgb-9.9* Hct-30.4* 
MCV-95 MCH-30.9 MCHC-32.6 RDW-12.2 RDWSD-42.7 Plt ___
___ 03:14PM BLOOD WBC-8.8# RBC-3.30* Hgb-10.2* Hct-31.1* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-12.0 RDWSD-41.8 Plt ___
___ 06:25AM BLOOD ___ PTT-35.4 ___
___ 03:14PM BLOOD ___ PTT-32.4 ___
___ 11:30AM BLOOD Fact XI-21*
___ 06:25AM BLOOD Glucose-112* UreaN-11 Creat-0.8 Na-143 
K-3.3 Cl-107 HCO3-28 AnGap-11
___ 03:14PM BLOOD Glucose-142* UreaN-16 Creat-1.0 Na-142 
K-3.8 Cl-104 HCO3-26 AnGap-16
___ 06:25AM BLOOD Mg-1.8
___ 03:14PM BLOOD Mg-1.9
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after undergoing 
robotic assisted laparoscopic prostatectomy. No concerning 
intra-operative events occurred; please see dictated operative 
note for full details. Mr. ___ received ___ 
antibiotic prophylaxis.  At the end of the procedure the patient 
was extubated and transported to the PACU for further recovery 
before being transferred to the floor.  He was transferred from 
the PACU in stable condition. On POD0, pain was well controlled 
on PCA, hydrated with intravenous fluids for urine output 
>30cc/hour, provided with pneumoboots and incentive spirometry 
for prophylaxis, and he ambulated once. On POD1, Mr. ___ was 
restarted on home medications, basic metabolic panel and 
complete blood count were checked, pain control was transitioned 
from PCA to oral analgesics, diet was advanced to a clears/toast 
and crackers diet for breakfast and lunch.  Diet was advanced to 
regular after lunch and with further ambulation. On POD2, the JP 
drain was removed.  Foley catheter care and leg bag teaching was 
provided by nursing. The remainder of the hospital course was 
unremarkable. Mr. ___ was discharged in stable condition, 
eating well, ambulating independently, and with pain control on 
oral analgesics. On exam, incision was clean, dry, and intact, 
with no evidence of hematoma collection or infection. Mr. 
___ was given explicit instructions to follow-up in one week 
for post-operative evaluation and trial of voiding.

 
Medications on Admission:
Synthroid, simvastatin
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Bacitracin Ointment 1 Appl TP TID 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
4. Levothyroxine Sodium 150 mcg PO DAILY 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN 
breakthrough pain (>4) 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4hrs Disp #*40 Tablet 
Refills:*0
6. Simvastatin 20 mg PO QPM 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Doses 
START ONE DAY PRIOR TO SCHEDULED VOID TRIAL/FOLEY REMOVAL 
RX *ciprofloxacin HCl 500 mg one tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PROSTATE CANCER

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-FIRST, use Tylenol. If more pain control is needed, use the 
narcotic Rx. 

-The maximum dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY.

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.
 
Followup Instructions:
___